US06339090B1
(4R)-4-(3,4-Difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-propyl}-amide
1-(3-Amino-propyl)-4-(4-fluorophenyl)-piperidine-4-ol dihydrochloride was used in place of 2-(1-(3-Amino-propyl)-piperidine-4-yl]-5-fluoro-benzonitrile dihydrochloride and (4R)-4-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid was used go in place of (4R)-4-(3,4-difluorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid.

reactant | 1-(3-Amino-propyl)-4-(4-fluorophenyl)-piperidine-4-ol dihydrochloride | Cl.Cl.NCCCN1CCC(CC1)(O)C1=CC=C(C=C1)F
reactant | (4R)-4-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)O)C)=O | C12H10F2N2O3
reactant | (4R)-4-(3,4-difluorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)O)COC)=O | C13H12F2N2O4
product | (4R)-4-(3,4-Difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {3-[4-(4-fluorophenyl)-4-hydroxy-piperidin-1-yl]-propyl}-amide | FC1=CC=C(C=C1)C1(CCN(CC1)CCCNC(=O)C=1[C@H](NC(NC1C)=O)C1=CC(=C(C=C1)F)F)O | C26H29F3N4O3
